datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+].Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>C[Si](C)(C)C12[C:62]3([CH+:11][CH2:10][CH:20]4[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]4=[O:33])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([N:10]1[C@H](C2=CC=CC=C2)CC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:61]([CH-:10][C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)=[O:62])C=C1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
C1C[C:71](=[O:72])[N-:10][C:61]1=[O:62].FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([N:10]2[C:61](=[O:62])CC[C:71]2=[O:72])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10=20
CC[O:82][C:71]([C-:10]1CCCCCCCCCC[C:62]1=[O:61])=[O:72].Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[O:82][C:71]([C:10]1([C:20]([C:31]2=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)CCCCCCCCCC[C:62]1=[O:61])=[O:72] 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[N:12]1[N:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[N:11]=[N+:12](C)[C:62]3=[C:61]2C=CC=C3)[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[CH:10]1=[CH:11][CH:12]=[C:13]2[C:14]1=[CH:15][CH:66]=[CH:67][CH:68]=[CH:69]2>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][C:13]3=[C:14]2[CH+:15][CH:66]=[CH:67][CH:68]=[CH:69]3)[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.C[N:12]1C2=C(C=CC=C2)[S:62]/[C:11]1=[CH:10]/C1=CC=CC=C1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=CC=C2)[C:11]2=[N+:12](C)C3=C(C=CC=C3)[S:62]2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.OCC[NH:10]CCO>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH+:10](CCO)CCO)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC(C)(C)C[CH:11]([H:10])[CH2:62][Sn:63](C)(C)C.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC(C)(C)C[CH+:11][CH2:62][Sn:63](C)(C)C.Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;20,21=21"
"C[Sn:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[Sn:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH+:11]1 10,11=10,20;20,21=21,22;22,23=23"
